US05789357
Step 1: Preparation of sodium diamyldithiocarbamate intermediate
To a 250 mL 3-neck round bottom reaction flask equipped with an overhead stirrer, a thermocouple probe, a reflux condenser, a Claisen adapter, and a 25 mL addition funnel, 30.0 g (0.19 mol) of diamyl amine, 15.3 g of a 50 weight percent NaOH solution (0.19 mol NaOH) and 100 mL reagent 2-propanol was added. 12.5 mL (0.21 mol) carbon disulfide was charged to the addition funnel. Carbon disulfide was added over a half-hour period. The reaction temperature was maintained at 25°-30° C. The product was post-reacted at 25° C. for 1 hour.

reactant | diamyl amine | 0.19 mol, 30.0 g | C(CCCC)NCCCCC | C10H23N
reactant | NaOH | 0.19 mol | [OH-].[Na+]
reactant | 2-propanol | CC(C)O | C3H8O
reactant | Carbon disulfide | C(=S)=S | CS2
reactant | carbon disulfide | 0.21 mol, 12.5 mL | C(=S)=S | CS2
product | sodium diamyldithiocarbamate | C(CCCC)N(C([S-])=S)CCCCC.[Na+] | InChI=1S/C11H23NS2.Na/c1-3-5-7-9-12(11(13)14)10-8-6-4-2;/h3-10H2,1-2H3,(H,13,14);/q;+1/p-1
